US07910740B2
To a solution of 1295 mg (5 mmol) 3-bromo-4-piperidone hydrobromide and 61 mg (0.5 mmol) 4-dimethyl aminopyridine in tetrahydrofurane (50 ml) was added at room temperature under nitrogen and stirring 646 mg (5 mmol) N,N-diisopropyl ethyl amine. The reaction was stirred at room temperature for 10 minutes. 1200 mg (5.5 mmol) di-tert.-butyl-dicarbonate was added and the reaction was stirred at room temperature over night. The reaction was diluted with water and extracted twice with diethyl ether. The combined organic layers were washed once with cold 1N aqueous HCl solution andonce with brine, dried over sodium sulphate, filtered and the solvent was evaporate under reduced pressure to yield 1240 mg (89%) 3-bromo-4-oxo-piperidine-1-carboxylic acid tert-butyl ester as a colorless oil which solidified to give a white solid. 1H NMR (CDCl3, 250 MHz): δ (ppm)=4.35 (br m, 1H), 3.98 (br m, 2H), 3.62 (br m, 2H), 3.04 (br m, 1H), 2.44 (m, 2H), 1.51 (s, 9H).

reactant | 3-bromo-4-piperidone hydrobromide | 5 mmol, 1295 mg | Br.BrC1CNCCC1=O
reactant | N,N-diisopropyl ethyl amine | 5 mmol, 646 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | di-tert.-butyl-dicarbonate | 5.5 mmol, 1200 mg | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofurane | 50 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 3-bromo-4-oxo-piperidine-1-carboxylic acid tert-butyl ester | 1240 mg, 89% | C(C)(C)(C)OC(=O)N1CC(C(CC1)=O)Br | C10H16BrNO3
